US08049015B2
[5-(2-Ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester and 3-pyridinepropionic acid were reacted as described in Example 8, Step 6 to provide [5-(2-{[N-ethyl-N-(3-pyridin-3-yl-propionyl)-amino]-methyl}-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester. The ester was hydrolyzed to the acid as described in Example 30, Step 2.

reactant | [5-(2-Ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C19H21F3N2O2
reactant | 3-pyridinepropionic acid | N1=CC(=CC=C1)CCC(=O)O | C8H9NO2
product | [5-(2-{[N-ethyl-N-(3-pyridin-3-yl-propionyl)-amino]-methyl}-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(C(CCC=1C=NC=CC1)=O)CC)=O | C27H28F3N3O3
